Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
morphine / lactose / Haldol
 
Attending: ___.
 
Chief Complaint:
s/p Falls and Respiratory Arrest at OSH
 
Major Surgical or Invasive Procedure:
___ Extubation
___ Reintubation
___ Extubate
 
History of Present Illness:
___ year old Male with PMH significant for HTN, atrial 
fibrillation not currently on anticoagulation, bradyarrhythmia, 
progressive dementia, and BPH who initially presented to 
___ after falling on two occasions.  Over the 
past weekend he fell twice once on ___ and again on ___ 
and presented to ___ on ___. Per records he 
has been getting weaker and has had several epsiodes of falls 
dating back to ___. On the day of admission pt 
daughter found him on the floor near his bed in the bedroom. The 
patient was awake and alert but was having trouble getting up on 
his own. He has also been experiencing worsening confusion at 
home in the afternoons and at night. He denied any fevers, 
chills, night sweats, chest pain, cough, SOB, nausea, vomiting, 
or diarrhea. 

He became delerious on the medical floor and was given a total 
of 8 mg haldol and seroquel on night of ___ to ___. He 
then became stiff, rigid, and had a respiratory code which may 
have been in the setting of seizure vs dystonic reaction and was 
intubated for airway protection. His WBC 14, lactate 14 at the 
time of the respiratory arrest but both have since declined. A 
NCCT of the ___ showed stable atrophy. He had an EEG which 
showed diffuse slowing and no seizure activity. He was started 
on keppra. An LP was performed and he was started on acyclovir. 
A CSF gram stain was negative, HSV PCR, eastern & western equine 
virus PCR was sent to state lab. 
 
Per discussion with Dr. ___ who is patients geriatrician, pt 
has been fully functional until a few months ago when he began 
to have frequent falls. He has some mild dementia at baseline 
but had been independent in ADLs and IADLs until recently when 
he had a precipitous decline.  

On arrival to the MICU, pt is intubated and sedated. Possibly 
complicated by laryngospasm which resulted in respiratory 
arrest. His reaction was precipitated by haldol. He was 
extubated on ___ and subsequently reintubated for increased 
work of breathing. He was later successfully extubated on ___ 
without further evidence of respiratory compromise. Speech and 
swallow evaluated and he was cleared for thin liquids, ground 
solids, and whole pills. 

He has improved on the floor. Of note while in the MICU he self 
removed his foley catheter causing prostatic trauma. He has had 
intermittant urinary retention with requirements for straight 
cath.
 
Past Medical History:
Atrial Fibrillation diagnosed ___, chads2 score of 2, off 
warfarin since ___
BACK PAIN  Spine CT, ___ showed thoracic and lumbar 
osteophytes (?DISH), L2-3 disc space obliteration, narrowing at 
L4-5, L5-S1; vacuum phenom L5-S1. 
BENIGN PROSTATIC HYPERTROPHY    
BRADYCARDIA     
HYPERTENSION-Mild LVH and ___, normal LV fxn (EF 55%) on Echo, 
___ ETT showed exercise-induced RBBB but no ischemic changes 
in ___. 
OSTEOARTHRITIS Right knee pain and TKRs in ___ and ___ 
SENSORINEURAL HEARING LOSS- Brain MRI ___ showed 
periventricular and subcortical WMH and a 12 mm Tornwaldt cyst 
in the posterior nasopharynx wall. No evidence of 
vestibularschwannoma or CPA mass. 
VENTRAL HERNIA   
FALLS 
BIL. TOTAL KNEE REPLACEMENTS ___ & ___ 
history of GI bleeding- gastric ulcers ___
 
Social History:
___
Family History:
unknown
 
Physical Exam:
PHYSICAL EXAM
Vitals: 98.1, 190/92, 80, 18, 96
General- NAD
HEENT- Sclera anicteric, MMM, - OP Lesions
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- irregular rhythm, S1 + S2, systolic murmur at apex
Abdomen- ventral and umbilical hernias, soft, non-tender, 
non-distended, bowel sounds present, no rebound tenderness or 
guarding 
Ext- warm, well perfused, 1+ pulses,   
Neuro- Conversant, AOx1 (Self), Pleasant and calm

 
Pertinent Results:
ADMISSION LABS
___ 11:27PM BLOOD WBC-11.5* RBC-4.07* Hgb-12.5* Hct-38.7* 
MCV-95 MCH-30.8 MCHC-32.4 RDW-15.8* Plt ___
___ 11:27PM BLOOD Neuts-84.7* Lymphs-8.3* Monos-5.8 Eos-1.1 
Baso-0.1
___ 11:27PM BLOOD ___ PTT-32.6 ___
___ 11:27PM BLOOD Glucose-99 UreaN-14 Creat-1.0 Na-136 
K-3.5 Cl-104 HCO3-24 AnGap-12
___ 01:53PM BLOOD ALT-21 AST-23 CK(CPK)-105 AlkPhos-94 
TotBili-2.4*
___ 01:53PM BLOOD CK-MB-6 cTropnT-0.07*
___ 02:51PM BLOOD CK-MB-6 cTropnT-0.07*
___ 11:08PM BLOOD CK-MB-4 cTropnT-0.03*
___ 11:27PM BLOOD Calcium-9.0 Phos-3.0 Mg-1.6
___ 11:08PM BLOOD VitB12-691
___ 11:08PM BLOOD TSH-0.72
___ 07:39AM BLOOD Cortsol-15.5
___ 07:54AM BLOOD Vanco-15.7
___ 12:00AM BLOOD Type-ART pO2-204* pCO2-34* pH-7.42 
calTCO2-23 Base XS--1
___ 12:00AM BLOOD Lactate-0.7
___ 11:51AM BLOOD Lactate-1.7

URINE
___ 04:22AM URINE Color-Red Appear-Cloudy Sp ___
___ 01:14AM URINE Color-Yellow Appear-Hazy Sp ___
___ 01:14AM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-2* pH-5.5 Leuks-NEG

MICROBIOLOGY
___ Sputum 
   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN 
PAIRS. 
   RESPIRATORY CULTURE (Preliminary): 
      UNABLE TO R/O OTHER PATHOGENS DUE TO OVERGROWTH OF 
SWARMING PROTEUS
      SPP.. 
      Due to mixed bacterial types ( >= 3 colony types) an 
abbreviated
      workup will be performed appropriate to the isolates 
recovered from
      this site. 
      SPARSE GROWTH Commensal Respiratory Flora. 
      WORKUP REQUESTED OF NEGATIVE RODS X3 PER ___
      ___. 
      GRAM NEGATIVE ROD #1.    SPARSE GROWTH. 
      GRAM NEGATIVE ROD #2.    RARE GROWTH. 
      GRAM NEGATIVE ROD #3.    RARE GROWTH.
___ Urine culture negative
___ Blood cx X 2 pending 
___ RPR nonreactive
___ Blood culture pending
___ Blood culture pending
___ Sputum 
   GRAM STAIN (Final ___: 
      >25 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
___ Blood culture pending 
___ Urine culture pending 

IMAGING
___ CXR
1.  Increased retrocardiac consolidation, potentially 
representing pneumonia.  
2.  NG tube is in similar position to the prior exam with its 
sidehole at the level of the GE junction.  This should be 
advanced for more appropriate position within the stomach.
  
___ ECHO
The left atrium is moderately dilated. The right atrium is 
moderately dilated. No atrial septal defect is seen by 2D or 
color Doppler. The estimated right atrial pressure is ___ mmHg. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global systolic function (LVEF>55%). 
There is no ventricular septal defect. Right ventricular chamber 
size and free wall motion are normal. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Mild (1+) mitral regurgitation is 
seen. The tricuspid valve leaflets are mildly thickened. The 
pulmonary artery systolic pressure could not be determined.   

___ MR ___ w/o contrast
No diffusion abnormalities are detected to suggest acute or 
subacute ischemic changes.  Multiple scattered areas of high 
signal intensity are noted on FLAIR and T2-weighted sequences, 
distributed in the subcortical and periventricular white matter, 
which are nonspecific and may reflect areas of small vessel 
disease.
 
Brief Hospital Course:
Mr. ___ is a ___ year old Male with PMH significant for HTN, 
atrial fibrillation, progressive dementia, and BPH who initially 
presented to ___ s/p two falls who experienced 
respiratory failure in setting of agitation and pyschotropic 
medication administration. 

# Respiratory Failure: Pt with a reported respiratory arrest on 
___ in the setting of agitation and psychotropic medications 
and was intubated for airway protection while unresponsive. 
Induced by a dystonic reaction as he was reportedly stiff, and 
rigid. Possibly complicated by laryngospasm which resulted in 
respiratory arrest. His reaction was precipitated by haldol. He 
was extubated on ___ and subsequently reintubated for increased 
work of breathing. He was later successfully extubated on ___ 
without further evidence of respiratory compromise. Speech and 
swallow evaluated and he was cleared for thin liquids, ground 
solids, and whole pills. 

# Altered Mental Status, Probable ___ Body Dementia: Consistent 
with hyperactive delirium and ICU delirium. In the ICU it was 
much improved after starting precedex. ___ acquired 
delerium likely exacerbated by delerogenic medications. Other 
etiologies included progressive dementia, seizure, 
encephalopathy, or embolic stroke as patient had been off 
anticoagulation for the past month; however there was no 
evidence of acute processes on Brain MRI other than small vessel 
disease changes. LP (performed at OSH) was not consistent with 
bacterial meningitis and HSV PCR was negative. There was no 
evidence of seizure on EEG from OSH so keppra was held. His RPR 
was negative. CSF from OSH indicated no evidence of HSV. 
Acyclovir was discontinued on ___. He was initially on 
seroquel 12.5mg PRN agitation and then transitioned to zyprexa 
5mg HS (6pm) and BID PRN. Patient was maintained on fall 
precautions. 

# Benign Hypertension: Metoprolol was discontinued in the 
setting of bradycardia in the ICU, and resumed on the floor. He 
was intermittenetly given hydralazine for elvated blood 
pressures of greater than 180. He was started on low dose 
captopril prior to transfer to the floor. He will need ongoing 
uptitration of his antihypertensives given labile blood 
pressures, however would be very cautious of using longer acting 
medication to treat the morning hypertension given his 
subsequent drops in BP.

#Hematuria: He had hematuria which was thought to be due to 
traumatic pulling of his foley catheter. Patient was on 
continuous CBI for a short period of time. Urology was consulted 
in the ICU and recommended a CTU be performed nonemergently and 
once his delirium began to resolve. He has follow up with 
urology in 1 week

# Atrial Fibrillation: CHADS2 score of 2. Was previously on 
warfarin but this was stopped by patient about 1 month ago in 
the setting of frequent falls. Metoprolol was held in the 
setting of slow atrial fibrillation in the ICU and resumed on 
the floor.

# Falls: Differential included mechanical falls, seizure, 
syncope, stroke\TIA, or NPH. CT ___ showed atrophy but no 
masses or bleed. CT C-spine also without acute changes. Falls 
are likely mechanical in setting of deconditioning and decline 
in functioning with progressive dementia. ___ consult was 
obtained and the patient is going to rehab

TRANSITIONAL ISSUES
- obtain CTU/nonemergent cystoscopy at ___ visit
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Pantoprazole 20 mg PO Q24H 
4. Vitamin D 1000 UNIT PO DAILY 
5. Multivitamins W/minerals 1 TAB PO DAILY 
6. Acetaminophen 325-650 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Pantoprazole 20 mg PO Q24H 
3. Finasteride 5 mg PO DAILY 
4. OLANZapine 5 mg PO BID:PRN agitation 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Multivitamins W/minerals 1 TAB PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 
8. Captopril 12.5 mg PO TID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Dystonic reaction to haldol
Hypertension
Delirium
___ Body Dementia
Atrial Fibrillation
Hematuria, Urinary Retention

 
Discharge Condition:
Mental Status: Clear and coherent, oriented to self
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory with assistance.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ after an adverse reaction to 
medication that caused you to have difficulty breathing 
requiring intubation (a breathing tube) and assistance with 
breathing on a ventilator. Given the reaction to this medication 
you had significant confusion during your admission which was 
improving at the time of discharge.

During admission you tried to remove your foley catheter with 
the balloon up, and this caused trauma to your prostate. We have 
given medications to attempt to shrink your prostate and you 
will be following up with urology.
 
Followup Instructions:
___